Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right hip and right ankle pain s/p MCC accident 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
The patient is a ___ yo M riding his motorcycle at 35 mph, hit a 
bus going the same direction.  Bounced off and hit the ground. 
Mentions he can remember mostly everything except the very 
moment of the impact. He does remember hitting the ground. C/o 
severe R hip and ankle pain ___, not responding to morphine.

 
Past Medical History:
None 
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Discharge Physical Exam:
VS: 98.5, 60, 133/74, 18, 98% RA
GEN: Pleasant with NAD
HENT: NC/A, PERRL, EPOMI, no JVD, no scleral icterus 
CV; RRR
PULM; CTAB
ABD: Soft, Non tender, non distended
Right hip/thigh: with laceration/abrasion
EXTR: Warm, no c/c/e 
 
Pertinent Results:
RECENT LABS:

___ 06:05AM BLOOD WBC-6.3 RBC-4.88 Hgb-14.4 Hct-42.5 MCV-87 
MCH-29.5 MCHC-33.9 RDW-11.9 RDWSD-38.0 Plt ___
___ 08:27AM BLOOD Glucose-83 UreaN-14 Creat-1.1 Na-139 
K-3.7 Cl-102 HCO3-22 AnGap-15
___ 08:27AM BLOOD Calcium-9.4 Phos-3.8 Mg-1.7

RADIOLOGY:

___ CXR:
IMPRESSION: Normal chest radiographs. 

___ CT TORSO:
IMPRESSION: 
1. Peripheral ground-glass opacification with small cystic 
changes in the 
posteromedial right lower lobe, likely pulmonary contusion. 
2. Fat stranding within the subcutaneous fat along the right 
flank extending along the right gluteal muscles.  Adjacent 
low-density fluid tracking along the superior iliotibial band 
spanning 9.2 cm, in the given clinical scenario likely 
represents scratch a ___ lesion. 
3. No other acute traumatic injuries within the chest, abdomen, 
or pelvis. 

___ RIGHT ANCLE:
IMPRESSION:  
No evidence of acute fracture or dislocation.

___ RIGHT ELBOW:
IMPRESSION:  
Normal right elbow x-ray examination. 
 

 
Brief Hospital Course:
The patient was admitted to the Acute Care Surgical Service for 
evaluation after motorbike accident. CT torso demonstrated right 
pulmonary contusion and right flank/hip laceration with 
subcutaneous fluid collection, concerning for ___ 
lesion. Patient plain right ankle and elbow films were negative 
for acute fractures. The patient was admitted to the Acute Care 
Surgery service for further medical care.  

The patient remained hemodynamically stable.  He remained stable 
from a cardiovascular and pulmonary standpoint;vital signs were 
routinely monitored. Early ambulation and pulmonary toilet were 
encouraged. The patient tolerated a regular diet. Patient pain 
was controlled with PO acetaminophen and PO Morphine. His was 
evaluated by Physical Therapy on HD 2 and discharged home in 
stable condition.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
do not exceed more then 3000 mg/day 
RX *acetaminophen 500 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*20 Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
3.  Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *morphine 15 mg 1 (One) tablet by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 (One) tablet by mouth twice a 
day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Pulmonary contusion s/p MCC
2. Right flank subcutaneous tissue injury s/p MCC

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation after a motorcycle accident. You were pan scanned and 
found to have small right lung contusion (bruise) and right 
flank lesion.  You also had right elbow pain and had an x-ray 
which was negative for fracture or dislocation. You are now 
medically cleared to be discharged home.  

Please note the following discharge instructions:

Please call Acute Care Surgery service at ___ if you 
have any questions or concerns. 

Please call your doctor or nurse practitioner if you experience 
the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___